US05051413
0.15 g of E-2-formylamino-4-phenyl-5-diethylphosphono-3-pentenoic acid methyl ester are dissolved in 10 ml of 4.5N hydrochloric acid and heated at 75° for 192 hours. After concentration in vacuo, the foamy residue is dissolved in a small amount of ethanol and 1 ml of ethanol/propylene oxide (1:1) is added dropwise thereto. The resulting white precipitate is filtered off and recrystallised from water/acetone (1:2). E-2-amino-4-phenyl-5-phosphono-3-pentenoic acid is thus obtained inthe form of colourless needles, m.p. 230°-233°.

reactant | E-2-formylamino-4-phenyl-5-diethylphosphono-3-pentenoic acid methyl ester | 0.15 g | COC(C(\C=C(\CP(=O)(OCC)OCC)/C1=CC=CC=C1)NC=O)=O | C17H24NO6P
solvent | hydrochloric acid | 4.5N, 10 ml | Cl | ClH
product | E-2-amino-4-phenyl-5-phosphono-3-pentenoic acid | NC(C(=O)O)\C=C(\CP(=O)(O)O)/C1=CC=CC=C1 | C11H14NO5P
